US07115633B2
4-(2-Hydroxymethyl-phenyl)piperidine hydrochloride
260 mg (0.89 mmol) of 4-(2-hydroxymethylphenyl)-1-piperidinecarboxylic acid, 1,1-dimethylethyl ester were dissolved in 20 mL of CH2Cl2, 4 mL of a saturated Et2O/HCl solution were added and the reaction mixture was stirred at room temperature for 45 min. The solvent was removed in vacuo and the resulting crude solid was triturated with CH2Cl2, filtered and dried, yielding 180 mg of the title compound.

reactant | 4-(2-hydroxymethylphenyl)-1-piperidinecarboxylic acid, 1,1-dimethylethyl ester | 0.89 mmol, 260 mg | OCC1=C(C=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H25NO3
reactant | Et2O HCl | 4 mL | CCOCC.Cl
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-Hydroxymethyl-phenyl)piperidine hydrochloride | 180 mg | Cl.OCC1=C(C=CC=C1)C1CCNCC1 | InChI=1S/C12H17NO.ClH/c14-9-11-3-1-2-4-12(11)10-5-7-13-8-6-10;/h1-4,10,13-14H,5-9H2;1H
